data/mechanisms/records/IMS8-EQ8.117.json
{"mechanism_id": "IMS8-EQ8.117", "species": [{"species_id": "bis_silyl_oxonium_ion", "mapped_smiles": "[CH3:2][Si:1]([CH3:3])([CH3:4])[O:5][CH2:6][CH2:7][O+:8]=[Si:9]([CH3:10])[CH3:11]", "role": "precursor_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "pentamethyldisiloxanylium_147", "mapped_smiles": "[CH3:2][Si:1]([CH3:3])([CH3:4])[O+:8]=[Si:9]([CH3:10])[CH3:11]", "role": "product_ion", "charge": 1, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}, {"species_id": "cyclic_ether_neutral", "mapped_smiles": "[CH2:6]1[CH2:7][O:5]1", "role": "neutral_loss", "charge": 0, "radical_electrons": 0, "spin_multiplicity": 1, "detected": false}], "states": [{"state_id": "state_precursor", "species_ids": ["bis_silyl_oxonium_ion"]}, {"state_id": "state_products", "species_ids": ["pentamethyldisiloxanylium_147", "cyclic_ether_neutral"]}], "steps": [{"step_id": "step_re_silyl_migration_with_elimination", "from_state": "state_precursor", "to_state": "state_products", "step_class": "elimination_with_group_migration", "semantics": "formal_arrow_step", "electron_moves": [{"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [1, 8]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [1, 5]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 1}, {"source": {"type": "bond", "atom_maps": [7, 8]}, "target": {"type": "bond", "atom_maps": [5, 7]}, "electron_count": 1}], "reaction_smirks": null, "reversible": false}], "evidence": [{"evidence_id": "ev_step", "source_id": "mclafferty_ims_4e", "target_type": "step", "target_id": "step_re_silyl_migration_with_elimination", "support_type": "textbook_proposed", "locator": {"page": 219, "equation": "8.117", "figure": null, "panel": "the four arcs on the left-hand structure; the reaction arrow is labelled 're'", "section": "8.11 Other rearrangements -- 'EE+ ions can also undergo such group migrations with elimination' (Eqs 8.117-8.120)"}, "confidence": 0.8, "curator_note": "Book draws 4 arc(s); moves <1,2,3,4> are all drawn, and no implicit hook is needed for electron balance. ARC GEOMETRY AS READ FROM THE SCAN (zoomed): the arcs form a bow-tie. Two arcs leave the Si-O sigma bond of the (CH3)3Si-O group (their common tail sits on that bond, mid-way between 'Si' and 'O') and two leave the O(+)-CH2 bond (common tail mid-way between the '+O' and the 'CH2'). Their heads converge in PAIRS: the two upper heads meet in the empty space between the (CH3)3Si and the +O=Si(CH3)2 -- the forming Si-O bond -- and the two lower heads meet in the empty space between the O and the CH2 -- the forming O-CH2 bond. Two heads meeting on one new bond can only be single-electron (fishhook) arcs, so each breaking bond is drawn as contributing one electron to each new bond; that is exactly how the four moves are encoded (electron_count 1 each). The barbs are too coarse in the scan to confirm half-heads by eye, but the 2-heads-per-new-bond geometry settles the count: four full 2-electron arrows would put eight electrons into two new bonds. GENERIC SCHEME INSTANTIATED (convention F): the book writes the chain as -(CH2)n- and the product ring generically; n = 1 was chosen here, i.e. the [M-CH3]+ ion of ethane-1,2-diol bis(TMS) ether, so the neutral is oxirane. Nothing about the electron flow depends on n."}], "ms_context": {"ionization_method": "EI", "polarity": "positive", "adduct": null, "activation_method": null, "collision_energy": null, "electron_energy_ev": null, "precursor_mz": 191.0919, "precursor_charge": 1, "instrument_type": "unspecified"}, "peak_assignments": [{"peak_id": "peak_147", "species_id": "pentamethyldisiloxanylium_147", "step_id": "step_re_silyl_migration_with_elimination", "observed_mz": 147.0656, "hydrogen_shift": 0, "isotope_offset": 0, "status": "inferred", "confidence": 0.5}], "curation": {"schema_version": "1.0.0", "record_version": 1, "extraction_method": "vision_multiagent", "review_status": "unreviewed", "created_at": "2026-07-28T00:00:00Z", "modified_at": "2026-07-28T00:00:00Z"}}
